US07741341B2
(i) [4-(1,1-Dioxo-1λ6-thiomorpholin-4-yl)-phenyl]-carbamic acid tert-butyl ester
A solution of 408 mg (4-Amino-phenyl)-carbamic acid tert-butyl ester and 254 mg Ethenesulfonyl-ethene in 4 mL EtOH were heated for 30 min at 140° C. under microwave irradiation (100 W, CEM Discover™ apparatus). Then, after cooling to RT the solvents were removed under reduced pressure and the residue was dried in vacuo. The crude product was subjected to the next reaction step.

reactant | (4-Amino-phenyl)-carbamic acid tert-butyl ester | 408 mg | C(C)(C)(C)OC(NC1=CC=C(C=C1)N)=O | C11H16N2O2
reactant | Ethenesulfonyl-ethene | 254 mg | C(=C)S(=O)(=O)C=C | C4H6O2S
solvent | EtOH | 4 mL | CCO | C2H6O
product | [4-(1,1-Dioxo-1λ6-thiomorpholin-4-yl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)N1CCS(CC1)(=O)=O)=O | C15H22N2O4S
